US07439237B2
(2a) ethyl (R)-2-amino-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-propionate
A solution of 3.5 g (10.97 mmol) (R)-2-amino-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-propionic acid in 100 mL EtOH and 70 mL ethanolic hydrochloric acid solution (11.5 M) was stirred overnight at RT. The mixture was evaporated down i. vac., the residue was taken up in 150 mL water, combined with 30 mL 15% K2CO3 solution, extracted with 150 mL EtOAc, the organic phase was separated off and dried over Na2SO4. After the desiccant and solvent had been eliminated the desired product was obtained.

reactant | (R)-2-amino-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-propionic acid | 10.97 mmol, 3.5 g | N[C@@H](C(=O)O)CC1=CC(=C(C(=C1)C(F)(F)F)N)Cl | C10H10ClF3N2O2
reactant | EtOH | 100 mL | CCO | C2H6O
solvent | hydrochloric acid | 11.5 M, 70 mL | Cl | ClH
product | ethyl (R)-2-amino-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-propionate | N[C@@H](C(=O)OCC)CC1=CC(=C(C(=C1)C(F)(F)F)N)Cl | C12H14ClF3N2O2
